US06380218B1
2-(3-Acetyl-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-cyclohexylmethyl]-nicotinamide
A solution of N-[4-(1-Hydroxy-1-methyl-ethyl)-cyclohexylmethyl]-2-[3-(2-methyl-[1,3]dioxolan-2-yl)-phenoxy]-nicotinamide (0.400 grams, 0.88 mmole) in acetic acid (10 ml) was stirred for 3 hours at room temperature. The mixture was diluted with 250 ml ethyl acetate, washed with 1 N NaOH, water and brine, dried over MgSO4, filtered and concentrated to an oil which was purified by chromatography on silica eluting with 40% ethyl acetate/hexane. Recrystalization gave a solid. (0.055 g). M.P. 105-107° C.; Anal. calcd. for C24H30N2O4: C, 70.22; H, 7.37; N, 6.82. Found: C, 68.43; H, 7.32; N, 6.71.

reactant | N-[4-(1-Hydroxy-1-methyl-ethyl)-cyclohexylmethyl]-2-[3-(2-methyl-[1,3]dioxolan-2-yl)-phenoxy]-nicotinamide | 0.88 mmole, 0.400 grams | OC(C)(C)C1CCC(CC1)CNC(C1=C(N=CC=C1)OC1=CC(=CC=C1)C1(OCCO1)C)=O | C26H34N2O5
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3-Acetyl-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-cyclohexylmethyl]-nicotinamide | C(C)(=O)C=1C=C(OC2=C(C(=O)NCC3CCC(CC3)C(C)(C)O)C=CC=N2)C=CC1 | C24H30N2O4
